US08022205B2
A crude product of [4-(4-methyl-piperazine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester obtained in Example 1-D-293, sodium hydride and methyl iodide were treated in DMF, and further treated with TFA, to obtain (4-methylaminomethyl-phenyl)-(4-methyl-piperazin-1-yl)-methanone. Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and (4-methylaminomethyl-phenyl)-(4-methyl-piperazin-1-yl)-methanone (126 mg) instead of 4-(4-ethyl-piperazin-1-yl)-2,6-difluoro-phenylamine used in Step D in Example 1-D-18, in the same manner as Step D in Example 1-D-18, a crude product of 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid methyl-[4-(4-methyl-piperazine-1-carbonyl)-benzyl]-amide was obtained, and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-297) as a colorless powder (6 mg, 6%).

reactant | [4-(4-methyl-piperazine-1-carbonyl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C(=O)N1CCN(CC1)C)=O | C18H27N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-methylaminomethyl-phenyl)-(4-methyl-piperazin-1-yl)-methanone | CNCC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C14H21N3O
